US06313122B1
Preparation of 2-(4-tert-Butylbenzoylamino)-4-phenylsulfonylamino-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 59, Part E, 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide (150 mg, 0.36 mmol) was reacted with benzenesulfonyl chloride to yield 112 mg (56%) of the title compound as a white solid.

reactant | 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide | 0.36 mmol, 150 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)N)C=C1 | C25H27N3O3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 2-(4-tert-Butylbenzoylamino)-4-phenylsulfonylamino-N-(4-methoxyphenyl)benzamide | 112 mg, 56% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2)C=C1 | C31H31N3O5S
